US06451740B2
Into a mixture of ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate [Intermediate compound A3-23], trichloromethyl chloroformate and toluene is added dropwise activated carbon, and the mixture is heated under reflux. The reaction solution is filtrated and the solvent is distilled off to obtain 4-chloro-2-fluoro-5-{2-(ethoxycarbonylmethoxy)phenoxy}phenyl isocyanate [Intermediate compound A12-23].

reactant | ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate | NC=1C(=CC(=C(OC2=C(OCC(=O)OCC)C=CC=C2)C1)Cl)F | C16H15ClFNO4
reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluoro-5-{2-(ethoxycarbonylmethoxy)phenoxy}phenyl isocyanate | ClC1=CC(=C(C=C1OC1=C(C=CC=C1)OCC(=O)OCC)N=C=O)F | C17H13ClFNO5
